US07897631B2
As in the synthesis of N-(2-azidoethyl)tetradecanamide, 4-pentylbenzoyl chloride (0.283 g, 1.35 mmol) was reacted with 2-azidoethanamine (0.116 g, 1.35 mmol) and triethylamine (0.273 g, 2.69 mmol) in dichloromethane (5 mL) to give N-(2-azidoethyl)-4-pentylbenzamide (0.267 g, 76%). 1H NMR (300 MHz, CDCl3) δ 7.74 (d, 2H), δ 7.61 (t, 1H), δ 7.15 (d, 2H), δ 3.54 (q, 2H), δ 3.44 (t, 2H), δ 2.58 (t, 2H), δ 1.57 (m, 2H), δ 1.26 (m, 4H), δ 0.86 (t, 3H) ppm; 13C NMR (75 MHz, CDCl3) δ 168.6, 147.2, 131.7, 128.7, 127.5, 50.8, 39.7, 35.9, 31.6, 31.1, 22.7, 14.2 ppm; HRMS (ESI) calcd for C14H20N4O (M+) 260.1637. found 260.1632.

reactant | N-(2-azidoethyl)tetradecanamide | N(=[N+]=[N-])CCNC(CCCCCCCCCCCCC)=O | C16H32N4O
reactant | 4-pentylbenzoyl chloride | 1.35 mmol, 0.283 g | C(CCCC)C1=CC=C(C(=O)Cl)C=C1 | C12H15ClO
reactant | 2-azidoethanamine | 1.35 mmol, 0.116 g | N(=[N+]=[N-])CCN | C2H6N4
reactant | triethylamine | 2.69 mmol, 0.273 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-(2-azidoethyl)-4-pentylbenzamide | 0.267 g, 76% | N(=[N+]=[N-])CCNC(C1=CC=C(C=C1)CCCCC)=O | C14H20N4O
